US09085575B2
15 ml of dimethylsulfoxide, 4.2 g (30.4 mmol) of potassium carbonate and 5.66 g (30.4 mmol) of tert-butyl piperazine-1-carboxylate, respectively, are added to 5 g (29.6 mmol) of 5-fluoro-2-nitrobenzaldehyde. The solution is carried at 90° C. under stirring for 8 h. After cooling, the reaction mixture is poured over crushed ice. The yellow precipitate formed is filtered, rinsed with water, and then dried to yield 8.6 g (88%) of tert-butyl 4-(3-formyl-4-nitrophenyl)piperazine-1-carboxylate in the form of a yellow solid.

reactant | potassium carbonate | 30.4 mmol, 4.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | tert-butyl piperazine-1-carboxylate | 30.4 mmol, 5.66 g | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | 5-fluoro-2-nitrobenzaldehyde | 29.6 mmol, 5 g | FC=1C=CC(=C(C=O)C1)[N+](=O)[O-] | C7H4FNO3
solvent | dimethylsulfoxide | 15 ml | CS(=O)C | C2H6OS
product | tert-butyl 4-(3-formyl-4-nitrophenyl)piperazine-1-carboxylate | 8.6 g, 88% | C(=O)C=1C=C(C=CC1[N+](=O)[O-])N1CCN(CC1)C(=O)OC(C)(C)C | C16H21N3O5
